US04246267
Using the same procedure but starting from 1-[2-(2,6-dimethyl phenylamino)-ethyl]-4-(N-phenyl N-propionylamino) piperidine and butyroyl chloride, 1-[2-(N-(2,6-dimethyl phenyl) N-butyrylamino)-ethyl]-4-(N-phenyl N-propionylamino) piperidine is produced.

reactant | 1-[2-(2,6-dimethyl phenylamino)-ethyl]-4-(N-phenyl N-propionylamino) piperidine | CC1=C(C(=CC=C1)C)NCCN1CCC(CC1)N(C(CC)=O)C1=CC=CC=C1 | C24H33N3O
reactant | butyroyl chloride | C(CCC)(=O)Cl | C4H7ClO
product | 1-[2-(N-(2,6-dimethyl phenyl) N-butyrylamino)-ethyl]-4-(N-phenyl N-propionylamino) piperidine | CC1=C(C(=CC=C1)C)N(C(CCC)=O)CCN1CCC(CC1)N(C(CC)=O)C1=CC=CC=C1 | C28H39N3O2
